### PR TITLE
[Merged by Bors] - feat: add Artinian schemes

### PR DESCRIPTION
**Pull request by Brian-Nugent**
Added the definition of Artinian Schemes and proved basic facts about them.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 1]
```diff
@@ -0,0 +1,168 @@
...
+
+namespace AlgebraicGeometry
+
+variable (X : Scheme)
+
+/-- A scheme `X` is locally Artinian if `𝒪ₓ(U)` is Artinian for all affine `U`. -/
+class IsLocallyArtinian : Prop where
+  component_artinian : ∀ (U : X.affineOpens),
+    IsArtinianRing Γ(X, U) := by infer_instance
+
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean:53]:
```suggestion

attribute [intsance] IsLocallyArtinian.component_artinian

```

This turns `IsLocallyArtinian.component_artinian` into an instance.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 2]
```diff
@@ -0,0 +1,168 @@
...
+lemma IsLocallyArtinian_IsLocallyNoetherian :
+    IsLocallyArtinian X → IsLocallyNoetherian X := fun hA =>
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
lemma IsLocallyArtinian_IsLocallyNoetherian [IsLocallyArtinian X] :
    IsLocallyNoetherian X :=
```
We prefer having hypotheses on the left of the colon. And the proof below might need some fixing.

Also the name should be `IsLocallyArtinian.isLocalNoetherian`. You can read about the naming convention [here](https://leanprover-community.github.io/contribute/naming.html).

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 3]
```diff
@@ -0,0 +1,168 @@
...
+    by
+      have _ := hA.1 U
+      infer_instance}
+
+lemma IsArtinianRing_DiscreteTopology (R : Type*) [CommRing R] [IsArtinianRing R] :
+    DiscreteTopology (PrimeSpectrum R) := by
+  apply DiscreteTopology.of_finite_of_isClosed_singleton
+  intro p
+  apply (PrimeSpectrum.isClosed_singleton_iff_isMaximal p).mpr
+  exact Ideal.isMaximal_of_isPrime p.asIdeal
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: We already have this by `inferInstance` I think.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 4]
```diff
@@ -0,0 +1,168 @@
...
+
+instance IsLocallyArtinian_IsAffine_IsArtinianRing [h : IsLocallyArtinian X] [IsAffine X] :
+    IsArtinianRing Γ(X, ⊤) :=
+  h.1 ⟨⊤, isAffineOpen_top X⟩
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
instance IsLocallyArtinian.isArtinianRing_of_isAffine [h : IsLocallyArtinian X] [IsAffine X] :
    IsArtinianRing Γ(X, ⊤) :=
  h.1 ⟨⊤, isAffineOpen_top X⟩
```
And similar below. See the naming convention (linked above) for more details.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 5]
```diff
@@ -0,0 +1,168 @@
...
+    IsLocallyArtinian U := by
+  refine { component_artinian := ?_ }
+  intro W
+  have F := (Scheme.Hom.appIso U.ι ↑W).commRingCatIsoToRingEquiv
+  have _ : IsArtinianRing Γ(X, U.ι ''ᵁ W) :=
+    h.1 ⟨(U.ι ''ᵁ W), AlgebraicGeometry.IsAffineOpen.image_of_isOpenImmersion W.2 U.ι⟩
+  exact RingEquiv.isArtinianRing F
+
+lemma IsLocallyArtinian_DiscreteTopology :
+    IsLocallyArtinian X → DiscreteTopology X := by
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
instance (priority := low) IsLocallyArtinian_DiscreteTopology [IsLocallyArtinian X] :
    DiscreteTopology X := by
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 6]
```diff
@@ -0,0 +1,168 @@
...
+    apply discreteTopology_iff_forall_isOpen.mp
+    exact IsLocallyArtinian_IsAffine_DiscreteTopology W
+  have _ := IsOpen.trans this W.2
+  have : Subtype.val '' {⟨x, hW2⟩} = {x} := Set.image_singleton
+  rw[← this]
+  assumption
+
+instance inst_IsLocallyArtinian_DiscreteTopology [h : IsLocallyArtinian X] :
+    DiscreteTopology X :=
+  IsLocallyArtinian_DiscreteTopology X h
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: Then you don't need this instance if you have the one above.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 7]
```diff
@@ -0,0 +1,168 @@
...
+
+theorem IsNoetherianRing_DiscreteTopololgy_IsArtinianRing
+(R : Type*) [CommRing R] [IsNoetherianRing R] [DiscreteTopology (PrimeSpectrum R)] :
+    IsArtinianRing R := by
+  apply isArtinianRing_iff_krullDimLE_zero.mpr
+  apply Ring.krullDimLE_zero_iff.mpr
+  intro I hI
+  let p : PrimeSpectrum R := ⟨I, hI⟩
+  apply (PrimeSpectrum.isClosed_singleton_iff_isMaximal p).mp
+  exact isClosed_singleton
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: The lemma `PrimeSpectrum.discreteTopology_iff_finite_and_krullDimLE_zero` should be useful here.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 8]
```diff
@@ -0,0 +1,168 @@
...
+
+lemma IsLocallyNoetherian_DiscreteTopology_IsLocallyArtinian
+[IsLocallyNoetherian X] [DiscreteTopology X] :
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
    [IsLocallyNoetherian X] [DiscreteTopology X] :
```
The hypotheses should be indented by 4 spaces.

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 7 above)
Comment (Brian-Nugent) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: It certainly was

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 9]
```diff
@@ -0,0 +1,161 @@
...
+
+lemma IsLocallyArtinian.IsLocallyNoetherian [h : IsLocallyArtinian X] :
+    IsLocallyNoetherian X :=
+  {component_noetherian := fun U =>
+    by
+      have _ := h.1 U
+      infer_instance}
+
+lemma IsArtinianRing_DiscreteTopology (R : Type*) [CommRing R] [IsArtinianRing R] :
+    DiscreteTopology (PrimeSpectrum R) := inferInstance
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: You can just remove this entirely I think?

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 10]
```diff
@@ -0,0 +1,161 @@
...
+
+attribute [instance] IsLocallyArtinian.component_artinian
+
+lemma IsLocallyArtinian.IsLocallyNoetherian [h : IsLocallyArtinian X] :
+    IsLocallyNoetherian X :=
+  {component_noetherian := fun U =>
+    by
+      have _ := h.1 U
+      infer_instance}
+
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
    IsLocallyNoetherian X where

```
I think this just works?

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 11]
```diff
@@ -0,0 +1,161 @@
...
+lemma IsArtinianRing_DiscreteTopology (R : Type*) [CommRing R] [IsArtinianRing R] :
+    DiscreteTopology (PrimeSpectrum R) := inferInstance
+
+instance IsLocallyArtinian.isArtinianRing_of_isAffine [h : IsLocallyArtinian X] [IsAffine X] :
+    IsArtinianRing Γ(X, ⊤) :=
+  h.1 ⟨⊤, isAffineOpen_top X⟩
+
+lemma IsLocallyArtinian_IsAffine_DiscreteTopology [IsLocallyArtinian X] [IsAffine X] :
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
lemma IsLocallyArtinian.discreteTopology_of_isAffine [IsLocallyArtinian X] [IsAffine X] :
```
And other names also needs fixing. Please see the naming convention for more.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 12]
```diff
@@ -0,0 +1,161 @@
...
+  have _ := IsOpen.trans this W.2
+  have : Subtype.val '' {⟨x, hW2⟩} = {x} := Set.image_singleton
+  rw[← this]
+  assumption
+
+theorem IsNoetherianRing.DiscreteTopololgy_IsArtinianRing
+(R : Type*) [CommRing R] [IsNoetherianRing R] [h : DiscreteTopology (PrimeSpectrum R)] :
+    IsArtinianRing R := by
+  apply isArtinianRing_iff_krullDimLE_zero.mpr
+  exact (PrimeSpectrum.discreteTopology_iff_finite_and_krullDimLE_zero.mp h).2
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: This should go in the end of `Mathlib/RingTheory/Spectrum/Prime/Noetherian.lean`.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 13]
```diff
@@ -0,0 +1,161 @@
...
+    IsLocallyArtinian X := by
+  refine { component_artinian := ?_ }
+  intro U
+  have _ : IsNoetherianRing Γ(X,U) := IsLocallyNoetherian.component_noetherian U
+  have _ : DiscreteTopology (PrimeSpectrum Γ(X,U)) := by
+    change DiscreteTopology (Spec Γ(X,U))
+    have F := AlgebraicGeometry.IsAffineOpen.isoSpec U.2
+    apply (Homeomorph.discreteTopology_iff (AlgebraicGeometry.Scheme.Hom.homeomorph F.hom)).mp
+    exact instDiscreteTopologySubtype
+  exact IsNoetherianRing.DiscreteTopololgy_IsArtinianRing Γ(X, U)
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: We could probably weaken `DiscreteTopology` to `T1Space` or even `topologicalKrullDim X = 0` but we probably have very little on the latter and `T1Space` might be good enough.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 14]
```diff
@@ -0,0 +1,161 @@
...
+
+theorem IsLocallyArtinian_iff_IsLocallyNoetherian_and_DiscreteTopology :
+    IsLocallyArtinian X ↔ IsLocallyNoetherian X ∧ DiscreteTopology X :=
+  ⟨fun _ => ⟨IsLocallyArtinian.IsLocallyNoetherian X, inferInstance⟩,
+  fun ⟨_,_⟩ => IsLocallyNoetherian_DiscreteTopology_IsLocallyArtinian X⟩
+
+instance inst_IsLocallyArtinian_IsLocallyNoetherian [IsLocallyArtinian X] :
+    IsLocallyNoetherian X := IsLocallyArtinian.IsLocallyNoetherian X
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: You should just change `IsLocallyArtinian.IsLocallyNoetherian` to `instance`.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 15]
```diff
@@ -0,0 +1,161 @@
...
+        toCompactSpace := inferInstance}
+
+theorem IsArtinianScheme_iff_IsNoetherian_and_DiscreteTopology :
+    IsArtinianScheme X ↔ IsNoetherian X ∧ DiscreteTopology X :=
+  ⟨fun _ => ⟨inferInstance, inferInstance⟩,
+  fun ⟨_,_⟩ =>
+    {toIsLocallyArtinian := IsLocallyNoetherian_DiscreteTopology_IsLocallyArtinian X,
+      toCompactSpace := inferInstance}⟩
+
+/-- A commutative ring R is Artinian if and only if Spec R is and Artinian scheme -/
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
/-- A commutative ring `R` is Artinian if and only if `Spec R` is an Artinian scheme -/
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 16]
```diff
@@ -0,0 +1,161 @@
...
+
+theorem IsLocallyArtinian_iff_IsLocallyNoetherian_and_DiscreteTopology :
+    IsLocallyArtinian X ↔ IsLocallyNoetherian X ∧ DiscreteTopology X :=
+  ⟨fun _ => ⟨IsLocallyArtinian.IsLocallyNoetherian X, inferInstance⟩,
+  fun ⟨_,_⟩ => IsLocallyNoetherian_DiscreteTopology_IsLocallyArtinian X⟩
+
+instance inst_IsLocallyArtinian_IsLocallyNoetherian [IsLocallyArtinian X] :
+    IsLocallyNoetherian X := IsLocallyArtinian.IsLocallyNoetherian X
+
+/-- A scheme is Artinian if it is Locally Artinian and quasi-compact -/
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
/-- A scheme is Artinian if it is locally Artinian and quasi-compact -/
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 17]
```diff
@@ -0,0 +1,161 @@
...
+
+* `IsLocallyArtinian.Opens_IsLocallyArtinian`: An open subset of a Locally Artinian scheme is
+  locally Artinian (when considered as a scheme in the natural way)
+
+* `inst_IsArtinianScheme_Finite`: An Artinian scheme is finite.
+
+* `AlgebraicGeometry.IsArtinianRing_iff_IsArtinianScheme`: A commutative ring R is Artinian if
+  and only if Spec R is Artinian.
+
+TODO: Show that all Artinian schemes are affine.
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: Are you doing this TODO? If so please change it to `TODO(<your first name or your full name or your handle>)`. Or else this usually means "I'd like someone to work on this for me".

**Comment by erdOne** [comment]
Also I wonder if you have a reference or have applications in mind.

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 11 above)
Comment (Brian-Nugent) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: I went through and fixed the names, the one I'm not sure about is on line 72. Should it be `IsLocallyArtinian.isLocallyArtinian_opens` or something like `Scheme.Opens.isLocallyArtinian_isLocallyArtinian?`

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: I would say you just keep it unnamed.

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: If you had to give it a name then probably `Scheme.Opens.isLocallyArtinian_toScheme` (because the coercion `X.Opens -> Scheme` is called `toScheme`)

**Comment by Brian-Nugent** [comment]
Ah nice, I will not be doing that one then

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 13 above)
Comment (Brian-Nugent) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: You're right and I think having for topologicalKrullDim X = 0 might be more useful.

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 11 above)
Comment (Brian-Nugent) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: What do you mean by unnamed?

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: You don't need to name instances. you could just write `instance [Foo X] : Bar X`. Because the intention of instances is that you should never refer to them by names but rather by `inferInstance`.

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 12 above)
Comment (Brian-Nugent) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: The theorem isArtinianRing_iff_krullDimLE_zero is in Mathlib.RingTheory.HopkinsLevitzki which imports Mathlib/RingTheory/Spectrum/Prime/Noetherian.lean so I think that would create an import cycle. Maybe it could go at the end of Mathlib.RingTheory.HopkinsLevitzki?

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 13 above)
Comment (Brian-Nugent) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: I got it working with `topologicalKrullDim X = 0`. Although the proof that `DiscreteTopology` implies `topologicalKrullDim X = 0` is a bit rough looking right now and I'm not sure the best way to improve it.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 18]
```diff
@@ -0,0 +1,152 @@
...
+noncomputable section
+
+namespace AlgebraicGeometry
+
+variable (X : Scheme)
+
+/-- A scheme `X` is locally Artinian if `𝒪ₓ(U)` is Artinian for all affine `U`. -/
+class IsLocallyArtinian : Prop where
+  component_artinian : ∀ (U : X.affineOpens),
+    IsArtinianRing Γ(X, U) := by infer_instance
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: Why `component`? Is `isArtinianRing_section` better?
I think this should be in `Scheme` namespace, and you should change `IsArtinianScheme` to `protected class Scheme.IsArtinian`.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 19]
```diff
@@ -0,0 +1,152 @@
...
+  exact inferInstanceAs (DiscreteTopology (PrimeSpectrum Γ(X,⊤)))
+
+instance [h : IsLocallyArtinian X] {U : X.Opens} :
+    IsLocallyArtinian U := by
+  refine { component_artinian := ?_ }
+  intro W
+  have F := (Scheme.Hom.appIso U.ι ↑W).commRingCatIsoToRingEquiv
+  have _ : IsArtinianRing Γ(X, U.ι ''ᵁ W) :=
+    h.1 ⟨(U.ι ''ᵁ W), AlgebraicGeometry.IsAffineOpen.image_of_isOpenImmersion W.2 U.ι⟩
+  exact RingEquiv.isArtinianRing F
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: (untested)
```suggestion
    IsLocallyArtinian U where
  component_artinian W := by
    have F := (Scheme.Hom.appIso U.ι ↑W).commRingCatIsoToRingEquiv
    have : IsArtinianRing Γ(X, U.ι ''ᵁ W) :=
      h.1 ⟨(U.ι ''ᵁ W), AlgebraicGeometry.IsAffineOpen.image_of_isOpenImmersion W.2 U.ι⟩
    RingEquiv.isArtinianRing F
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 20]
```diff
@@ -0,0 +1,152 @@
...
+instance IsLocallyArtinian.isLocallyNoetherian [h : IsLocallyArtinian X] :
+    IsLocallyNoetherian X where
+
+instance IsLocallyArtinian.isArtinianRing_of_isAffine [h : IsLocallyArtinian X] [IsAffine X] :
+    IsArtinianRing Γ(X, ⊤) :=
+  h.1 ⟨⊤, isAffineOpen_top X⟩
+
+lemma IsLocallyArtinian.discreteTopology_of_isAffine [IsLocallyArtinian X] [IsAffine X] :
+    DiscreteTopology X := by
+  have F := AlgebraicGeometry.Scheme.isoSpec X
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: (untested)
```suggestion
  have F := Scheme.isoSpec X
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 21]
```diff
@@ -0,0 +1,152 @@
...
+  have _ : IsArtinianRing Γ(X, U.ι ''ᵁ W) :=
+    h.1 ⟨(U.ι ''ᵁ W), AlgebraicGeometry.IsAffineOpen.image_of_isOpenImmersion W.2 U.ι⟩
+  exact RingEquiv.isArtinianRing F
+
+instance (priority := low) IsLocallyArtinian.discreteTopology [IsLocallyArtinian X] :
+    DiscreteTopology X := by
+  apply discreteTopology_iff_isOpen_singleton.mpr
+  intro x
+  have : x ∈ (⊤ : X.Opens) := trivial
+  obtain ⟨W, hW1, hW2, _⟩ := exists_isAffineOpen_mem_and_subset this
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: maybe with `open TopologicalSpace (Opens)`
```suggestion
  obtain ⟨W, hW1, hW2, _⟩ := exists_isAffineOpen_mem_and_subset (Opens.mem_top x)
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 22]
```diff
@@ -0,0 +1,152 @@
...
+  have _ : IsAffine W := hW1
+  have _ : DiscreteTopology W := IsLocallyArtinian.discreteTopology_of_isAffine W
+  have : IsOpen ({(⟨x, hW2⟩)} : Set W) := by
+    apply discreteTopology_iff_forall_isOpen.mp
+    exact IsLocallyArtinian.discreteTopology_of_isAffine W
+  have _ := IsOpen.trans this W.2
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: no need of underscores
```suggestion
  have : IsAffine W := hW1
  have : DiscreteTopology W := IsLocallyArtinian.discreteTopology_of_isAffine W
  have : IsOpen ({(⟨x, hW2⟩)} : Set W) :=
    discreteTopology_iff_forall_isOpen.mp (IsLocallyArtinian.discreteTopology_of_isAffine W)
  have := this.trans W.2
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 23]
```diff
@@ -0,0 +1,152 @@
...
+    IsLocallyArtinian X := by
+  refine { component_artinian := ?_ }
+  intro U
+  have _ : IsNoetherianRing Γ(X,U) := IsLocallyNoetherian.component_noetherian U
+  apply isArtinianRing_iff_krullDimLE_zero.mpr
+  rw [Ring.KrullDimLE, Order.krullDimLE_iff, ← ringKrullDim, Nat.cast_zero,
+  ← PrimeSpectrum.topologicalKrullDim_eq_ringKrullDim Γ(X, U)]
+  have Ft := Scheme.Hom.homeomorph (AlgebraicGeometry.IsAffineOpen.isoSpec U.2).hom
+  change topologicalKrullDim (Spec Γ(X, U)) ≤ 0
+  rw[← IsHomeomorph.topologicalKrullDim_eq Ft Ft.isHomeomorph]
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
  rw [Ring.KrullDimLE, Order.krullDimLE_iff, ← ringKrullDim, Nat.cast_zero,
    ← PrimeSpectrum.topologicalKrullDim_eq_ringKrullDim Γ(X, U)]
  have Ft := Scheme.Hom.homeomorph (AlgebraicGeometry.IsAffineOpen.isoSpec U.2).hom
  change topologicalKrullDim (Spec Γ(X, U)) ≤ 0
  rw [← IsHomeomorph.topologicalKrullDim_eq Ft Ft.isHomeomorph]
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 24]
```diff
@@ -0,0 +1,152 @@
...
+  have _ := IsOpen.trans this W.2
+  have : Subtype.val '' {⟨x, hW2⟩} = {x} := Set.image_singleton
+  rw[← this]
+  assumption
+
+theorem IsNoetherianRing.discreteTopololgy_of_isArtinianRing
+(R : Type*) [CommRing R] [IsNoetherianRing R] [h : DiscreteTopology (PrimeSpectrum R)] :
+    IsArtinianRing R := by
+  apply isArtinianRing_iff_krullDimLE_zero.mpr
+  exact (PrimeSpectrum.discreteTopology_iff_finite_and_krullDimLE_zero.mp h).2
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
    IsArtinianRing R :=
  isArtinianRing_iff_krullDimLE_zero.mpr
    (PrimeSpectrum.discreteTopology_iff_finite_and_krullDimLE_zero.mp h).2
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 25]
```diff
@@ -0,0 +1,152 @@
...
+  obtain ⟨W, hW1, hW2, _⟩ := exists_isAffineOpen_mem_and_subset this
+  have _ : IsAffine W := hW1
+  have _ : DiscreteTopology W := IsLocallyArtinian.discreteTopology_of_isAffine W
+  have : IsOpen ({(⟨x, hW2⟩)} : Set W) := by
+    apply discreteTopology_iff_forall_isOpen.mp
+    exact IsLocallyArtinian.discreteTopology_of_isAffine W
+  have _ := IsOpen.trans this W.2
+  have : Subtype.val '' {⟨x, hW2⟩} = {x} := Set.image_singleton
+  rw[← this]
+  assumption
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
  rwa [← show Subtype.val '' {⟨x, hW2⟩} = {x} from Set.image_singleton]
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 26]
```diff
@@ -0,0 +1,152 @@
...
+  change topologicalKrullDim (Spec Γ(X, U)) ≤ 0
+  rw[← IsHomeomorph.topologicalKrullDim_eq Ft Ft.isHomeomorph]
+  exact (topologicalKrullDim_subspace_le X U).trans h
+
+theorem IsLocallyArtinian.iff_isLocallyNoetherian_and_discreteTopology :
+    IsLocallyArtinian X ↔ IsLocallyNoetherian X ∧ DiscreteTopology X :=
+  ⟨fun _ => ⟨inferInstance, inferInstance⟩,
+  fun ⟨_,_⟩ => by
+    have h : topologicalKrullDim X ≤ 0 := topologicalKrullDim_zero_of_discreteTopology X
+    exact IsLocallyNoetherian.isLocallyArtinian_topologicalKrullDim_zero h⟩
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
  fun ⟨_,_⟩ ↦
    have h : topologicalKrullDim X ≤ 0 := topologicalKrullDim_zero_of_discreteTopology X
    IsLocallyNoetherian.isLocallyArtinian_topologicalKrullDim_zero h⟩
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 27]
```diff
@@ -0,0 +1,152 @@
...
+
+/-- A scheme is Artinian if it is locally Artinian and quasi-compact -/
+@[mk_iff]
+class IsArtinianScheme : Prop extends IsLocallyArtinian X, CompactSpace X
+
+instance IsArtinianScheme.finite [IsArtinianScheme X] :
+    Finite X := @finite_of_compact_of_discrete X _ _ _
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
    Finite X := finite_of_compact_of_discrete
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 28]
```diff
@@ -0,0 +1,152 @@
...
+
+instance IsArtinianScheme.isNoetherianScheme [IsArtinianScheme X] :
+    IsNoetherian X :=
+      { toIsLocallyNoetherian := inferInstance,
+        toCompactSpace := inferInstance}
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
    IsNoetherian X where
  toIsLocallyNoetherian := inferInstance,
  toCompactSpace := inferInstance
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 29]
```diff
@@ -0,0 +1,152 @@
...
+  ⟨fun _ => ⟨inferInstance, inferInstance⟩,
+  fun ⟨_,_⟩ =>
+    {toIsLocallyArtinian := (IsLocallyArtinian.iff_isLocallyNoetherian_and_discreteTopology X).mpr
+      ⟨inferInstance, inferInstance⟩,
+      toCompactSpace := inferInstance}⟩
+
+/-- A commutative ring `R` is Artinian if and only if `Spec R` is an Artinian scheme -/
+theorem IsArtinianRing.iff_isArtinianScheme (R : Type*) [CommRing R] :
+    IsArtinianRing R ↔ IsArtinianScheme (Spec (CommRingCat.of R)) := ⟨fun _ =>
+    (IsArtinianScheme.iff_isNoetherian_and_discreteTopology (Spec (CommRingCat.of R))).mpr
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
    IsArtinianRing R ↔ IsArtinianScheme (Spec (CommRingCat.of R)) :=
  ⟨fun _ ↦ (IsArtinianScheme.iff_isNoetherian_and_discreteTopology (Spec (CommRingCat.of R))).mpr
```

File: Mathlib/Topology/KrullDimension.lean [hunk 30]
```diff
@@ -65,3 +65,42 @@ ambient space. -/
 theorem topologicalKrullDim_subspace_le (X : Type*) [TopologicalSpace X] (Y : Set X) :
     topologicalKrullDim Y ≤ topologicalKrullDim X :=
   IsInducing.topologicalKrullDim_le IsInducing.subtypeVal
+
+lemma DiscreteTopology.singleton_of_isIrreducible
+{X : Type*} {S : Set X} [TopologicalSpace X] [DiscreteTopology X] (h : IsIrreducible S)
+(s : X) (hs : s ∈ S) :
+    S = {s} := by
```
Comment (alreadydone) [inline Mathlib/Topology/KrullDimension.lean]: Indentation is off.
TODO: check whether this exists or golf it.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 31]
```diff
@@ -0,0 +1,152 @@
...
+* `AlgebraicGeometry.IsLocallyArtinian_iff_IsLocallyNoetherian_and_DiscreteTopology`: A scheme is
+  locally Artinian if and only if it is LocallyNoetherian and it has the discrete topology.
+
+* `AlgebraicGeometry.IsArtinianScheme_iff_IsNoetherian_and_Finite`: A scheme is Artinian if and
+  only if it is Noetherian and has the discrete topology.
+
+* `IsLocallyArtinian.Opens_IsLocallyArtinian`: An open subset of a locally Artinian scheme is
+  locally Artinian (when considered as a scheme in the natural way)
+
+* `inst_IsArtinianScheme_Finite`: An Artinian scheme is finite.
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: I don't think these matches the auto-generated instance name?

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 32]
```diff
@@ -0,0 +1,152 @@
...
+theorem IsArtinianScheme.iff_isNoetherian_and_discreteTopology :
+    IsArtinianScheme X ↔ IsNoetherian X ∧ DiscreteTopology X :=
+  ⟨fun _ => ⟨inferInstance, inferInstance⟩,
+  fun ⟨_,_⟩ =>
+    {toIsLocallyArtinian := (IsLocallyArtinian.iff_isLocallyNoetherian_and_discreteTopology X).mpr
+      ⟨inferInstance, inferInstance⟩,
+      toCompactSpace := inferInstance}⟩
+
+/-- A commutative ring `R` is Artinian if and only if `Spec R` is an Artinian scheme -/
+theorem IsArtinianRing.iff_isArtinianScheme (R : Type*) [CommRing R] :
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: probably should be called `Scheme.isArtinianRing_iff_isArtinianScheme`. Please remember to update the names in module docstring.

File: .vscode/keybindings.json [hunk 33]
```diff
@@ -0,0 +1,14 @@
+[
```
Comment (alreadydone) [inline .vscode/keybindings.json]: You should discard the changes in this file and `.vscode/settings.json`.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 34]
```diff
@@ -0,0 +1,152 @@
...
+
+* `IsLocallyArtinian.Opens_IsLocallyArtinian`: An open subset of a locally Artinian scheme is
+  locally Artinian (when considered as a scheme in the natural way)
+
+* `inst_IsArtinianScheme_Finite`: An Artinian scheme is finite.
+
+* `AlgebraicGeometry.IsArtinianRing_iff_IsArtinianScheme`: A commutative ring R is Artinian if
+  and only if Spec R is Artinian.
+
+TODO(Brian-Nugent): Show that all Artinian schemes are affine.
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/Artinian.lean:37]: [AlgebraicGeometry.instIsAffineSigmaObjSchemeOfFinite](https://leanprover-community.github.io/mathlib4_docs/Mathlib/AlgebraicGeometry/Limits.html#AlgebraicGeometry.instIsAffineSigmaObjSchemeOfFinite) is probably useful

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 20 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: Or just `X.isoSpec`

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 21 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: `open TopologicalSpace (Opens)` would probably clash with `Scheme.Opens`. If so, you could also use `Set.mem_univ x`.

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 18 above)
Comment (Brian-Nugent) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: I was following the convention of IsLocallyNoetherian, which uses component_noetherian. I am happy to change this to isArtinianRing_section if you think this is better.

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: Let's keep it (the class name) like this for now. We would eventually want to move all those things (`IsReduced`, `IsIntegral` `IsNoetherian` etc) to the scheme namespace and I can do that after this is merged.

For the name of the field, the naming convention asks for `isArtinianRing_presheaf_obj` and maybe do that instead.

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 34 above)
Comment (Brian-Nugent) [reply Mathlib/AlgebraicGeometry/Artinian.lean:37]: Do you know if a statement along the lines of "a scheme with finitely many connected components is isomorphic to the coproduct of its connected components" is in mathlib? Or really any statement to help show when a scheme is isomorphic to a coproduct of disjoint open subschemes.

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 18 above)
Comment (Brian-Nugent) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: Ok, I will change it to isArtinianRing_presheaf_obj

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 34 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Artinian.lean:37]: Probably just [`AlgebraicGeometry.isOpenImmersion_sigmaDesc`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/AlgebraicGeometry/Limits.html#AlgebraicGeometry.isOpenImmersion_sigmaDesc) + [`AlgebraicGeometry.IsOpenImmersion.isIso`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/AlgebraicGeometry/OpenImmersion.html#AlgebraicGeometry.IsOpenImmersion.isIso)

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 29 above)
Comment (Brian-Nugent) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: Should I change all of my `=>` into `↦`?

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 35]
```diff
@@ -0,0 +1,143 @@
...
+  obtain ⟨W, hW1, hW2, _⟩ := exists_isAffineOpen_mem_and_subset (TopologicalSpace.Opens.mem_top x)
+  have : IsAffine W := hW1
+  have : DiscreteTopology W := IsLocallyArtinian.discreteTopology_of_isAffine W
+  have : IsOpen ({⟨x, hW2⟩} : Set W) := discreteTopology_iff_forall_isOpen.mp
+    (IsLocallyArtinian.discreteTopology_of_isAffine W) {⟨x, hW2⟩}
+  have := this.trans W.2
+  rwa [← show Subtype.val '' {⟨x, hW2⟩} = {x} from Set.image_singleton]
+
+theorem IsNoetherianRing.discreteTopololgy_of_isArtinianRing
+(R : Type*) [CommRing R] [IsNoetherianRing R] [h : DiscreteTopology (PrimeSpectrum R)] :
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
    (R : Type*) [CommRing R] [IsNoetherianRing R] [h : DiscreteTopology (PrimeSpectrum R)] :
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 36]
```diff
@@ -0,0 +1,143 @@
...
+  intro x
+  obtain ⟨W, hW1, hW2, _⟩ := exists_isAffineOpen_mem_and_subset (TopologicalSpace.Opens.mem_top x)
+  have : IsAffine W := hW1
+  have : DiscreteTopology W := IsLocallyArtinian.discreteTopology_of_isAffine W
+  have : IsOpen ({⟨x, hW2⟩} : Set W) := discreteTopology_iff_forall_isOpen.mp
+    (IsLocallyArtinian.discreteTopology_of_isAffine W) {⟨x, hW2⟩}
+  have := this.trans W.2
+  rwa [← show Subtype.val '' {⟨x, hW2⟩} = {x} from Set.image_singleton]
+
+theorem IsNoetherianRing.discreteTopololgy_of_isArtinianRing
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: This should be moved to a `Mathlib.RingTheory....` file.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 37]
```diff
@@ -0,0 +1,143 @@
...
+  ⟨fun _ => ⟨inferInstance, inferInstance⟩,
+  fun ⟨_,_⟩ ↦
+    have h : topologicalKrullDim X ≤ 0 := topologicalKrullDim_zero_of_discreteTopology X
+    IsLocallyNoetherian.isLocallyArtinian_topologicalKrullDim_zero h⟩
+
+/-- A scheme is Artinian if it is locally Artinian and quasi-compact -/
+@[mk_iff]
+class IsArtinianScheme : Prop extends IsLocallyArtinian X, CompactSpace X
+
+/-- Artinian Schemes are finite -/
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
/-- The underlying type of an Artinian Scheme is finite -/
```

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 36 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: This should be called `IsArtinianRing.of_discreteTopology_primeSpectrum` and probably go in `Mathlib/RingTheory/Spectrum/Prime/Noetherian.lean`.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 38]
```diff
@@ -0,0 +1,143 @@
...
+  have := this.trans W.2
+  rwa [← show Subtype.val '' {⟨x, hW2⟩} = {x} from Set.image_singleton]
+
+theorem IsNoetherianRing.discreteTopololgy_of_isArtinianRing
+(R : Type*) [CommRing R] [IsNoetherianRing R] [h : DiscreteTopology (PrimeSpectrum R)] :
+    IsArtinianRing R :=
+  isArtinianRing_iff_krullDimLE_zero.mpr
+    (PrimeSpectrum.discreteTopology_iff_finite_and_krullDimLE_zero.mp h).2
+
+lemma IsLocallyNoetherian.isLocallyArtinian_topologicalKrullDim_zero
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
lemma IsLocallyArtinian.of_topologicalKrullDim_le_zero
```

File: Mathlib/Topology/KrullDimension.lean [hunk 39]
```diff
@@ -65,3 +65,42 @@ ambient space. -/
...
+      have _ : (S ∩ (S' ∩ {x})) = ∅ := by aesop
+      rw[hS'] at this
+      aesop
+    have hxS : {x} = S := Subset.antisymm (singleton_subset_iff.mpr hx)
+      (diff_eq_empty.mp (not_nonempty_iff_eq_empty.mp h1))
+    subst hxS
+    aesop
+  intro hx
+  rw[hx]
+  exact hs
```
Comment (erdOne) [inline Mathlib/Topology/KrullDimension.lean]: I think you should prove something like this first:
```lean
import Mathlib.Topology.DiscreteSubset
import Mathlib.Topology.Irreducible

lemma IsDiscrete.subsingleton_of_isPreirreducible
    {X : Type*} [TopologicalSpace X] {s : Set X}
    (hs : IsDiscrete s) (hs' : IsPreirreducible s) : s.Subsingleton := by
  intro x hxs y hys
  obtain ⟨U, hU, hUx⟩ := isDiscrete_iff_forall_exists_isOpen.mp hs x hxs
  obtain ⟨V, hV, hVy⟩ := isDiscrete_iff_forall_exists_isOpen.mp hs y hys
  obtain ⟨z, hz⟩ := hs' _ _ hU hV ⟨x, by grind⟩ ⟨y, by grind⟩
  exact (hUx.le (by grind)).symm.trans (b := z) (hVy.le (by grind))
```

Comment (erdOne) [reply Mathlib/Topology/KrullDimension.lean]: And this should live somewhere else.

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 36 above)
Comment (Brian-Nugent) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: This creates an import cycle because it uses `isArtinianRing_iff_krullDimLE_zero` which is in the file `Mathlib/RingTheory/HopkinsLevitzki.lean`. I could put it at the end of that file?

File: Mathlib/Topology/KrullDimension.lean (hunk 39 above)
Comment (Brian-Nugent) [reply Mathlib/Topology/KrullDimension.lean]: I added this to the end of `Mathlib/Topology/Irreducible.lean` and removed `DiscreteTopology.singleton_of_isIrreducible`

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 36 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: Sure that would work.

File: Mathlib/Topology/KrullDimension.lean [hunk 40]
```diff
@@ -65,3 +65,20 @@ ambient space. -/
...
+  have hYZ : Z.1 = Y.1 := by
+    have hZY := IsDiscrete.subsingleton_of_isPreirreducible DiscreteTopology.isDiscrete Y.2.2
+    ext x
+    constructor
+    · exact fun hx ↦ h hx
+    intro hx
+    obtain ⟨z, hz⟩ := Z.2.1
+    rw[hZY hx (h hz)]
+    exact hz
+  rw[hYZ]
```
Comment (erdOne) [inline Mathlib/Topology/KrullDimension.lean]:
```suggestion
  refine krullDim_nonpos_iff_forall_isMax.mpr fun Z Y h ↦ (h.antisymm' fun x hx ↦ ?_).le
  obtain ⟨z, hz⟩ := Z.2.nonempty
  rwa [DiscreteTopology.isDiscrete.subsingleton_of_isPreirreducible Y.2.isPreirreducible hx (h hz)]
```

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 41]
```diff
@@ -0,0 +1,143 @@
...
+    ← PrimeSpectrum.topologicalKrullDim_eq_ringKrullDim Γ(X, U)]
+  have Ft := Scheme.Hom.homeomorph (AlgebraicGeometry.IsAffineOpen.isoSpec U.2).hom
+  change topologicalKrullDim (Spec Γ(X, U)) ≤ 0
+  rw [← IsHomeomorph.topologicalKrullDim_eq Ft Ft.isHomeomorph]
+  exact (topologicalKrullDim_subspace_le X U).trans h
+
+theorem IsLocallyArtinian.iff_isLocallyNoetherian_and_discreteTopology :
+    IsLocallyArtinian X ↔ IsLocallyNoetherian X ∧ DiscreteTopology X :=
+  ⟨fun _ => ⟨inferInstance, inferInstance⟩,
+  fun ⟨_,_⟩ ↦
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
  ⟨fun _ ↦ ⟨inferInstance, inferInstance⟩,
  fun ⟨_,_⟩ ↦
```
There are no preference in mathlib for either but we should at least be consistent in the same declaration.

File: Mathlib/Topology/Irreducible.lean [hunk 42]
```diff
@@ -405,4 +406,13 @@ def irreducibleComponentsEquivOfIsPreirreducibleFiber :
 
 end
 
+lemma IsDiscrete.subsingleton_of_isPreirreducible
+    {X : Type*} [TopologicalSpace X] {s : Set X}
```
Comment (erdOne) [inline Mathlib/Topology/Irreducible.lean]: Can you check if `{X : Type*} [TopologicalSpace X]` are already in `variable`? That is, if the following works?
```suggestion
    {s : Set X}
```

**Review by erdOne — APPROVED** [review]
LGTM otherwise

**Comment by omaisali** [comment]
Hi! I saw you're looking for feat: add artinian schemes. I recently completed a very similar project: "Ai Bot Mt5". Completed Trading Bot project. I'd be happy to discuss how I can adapt this approach for your needs.

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 36 above)
Comment (Brian-Nugent) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: This actually isn't used anymore since I refactored `IsLocallyArtinian.of_topologicalKrullDim_le_zero` so I just removed it.

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 43]
```diff
@@ -0,0 +1,137 @@
...
+      ⟨inferInstance, inferInstance⟩,
+      toCompactSpace := inferInstance}⟩
+
+/-- A commutative ring `R` is Artinian if and only if `Spec R` is an Artinian scheme -/
+theorem Scheme.isArtinianRing_iff_isArtinianScheme (R : Type*) [CommRing R] :
+    IsArtinianRing R ↔ IsArtinianScheme (Spec (CommRingCat.of R)) :=
+  ⟨fun _ ↦ (IsArtinianScheme.iff_isNoetherian_and_discreteTopology (Spec (CommRingCat.of R))).mpr
+    ⟨inferInstance, inferInstanceAs (DiscreteTopology (PrimeSpectrum R))⟩,
+  fun _ => RingEquiv.isArtinianRing
+    (AlgebraicGeometry.Scheme.ΓSpecIso (CommRingCat.of R)).commRingCatIsoToRingEquiv⟩
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]: I would prefer stating it as 
```
theorem Scheme.isArtinianScheme_Spec {R : CommRingCat} :
    IsArtinianScheme (Spec R) ↔ IsArtinianRing R :=
```
And the inverse direction should be an instance.

Comment (Brian-Nugent) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: I changed it and I agree it looks better. Also, is there a nice way to clean up proofs like that of `IsArtinianScheme.iff_isNoetherian_and_discreteTopology` that contain a lot of inferInstance calls? For example, can `fun _ => ⟨inferInstance, inferInstance⟩` be replaced with something cleaner?

File: Mathlib/AlgebraicGeometry/Artinian.lean [hunk 44]
```diff
@@ -0,0 +1,140 @@
...
+  ⟨fun _ => ⟨inferInstance, inferInstance⟩,
+  fun ⟨_,_⟩ =>
+    {toIsLocallyArtinian := (IsLocallyArtinian.iff_isLocallyNoetherian_and_discreteTopology X).mpr
+      ⟨inferInstance, inferInstance⟩,
+      toCompactSpace := inferInstance}⟩
+
+instance {R : CommRingCat} [IsArtinianRing R] :
+    IsArtinianScheme (Spec R) :=
+    (IsArtinianScheme.iff_isNoetherian_and_discreteTopology (Spec R)).mpr
+    ⟨inferInstance, inferInstanceAs (DiscreteTopology (PrimeSpectrum R))⟩
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Artinian.lean]:
```suggestion
  (IsArtinianScheme.iff_isNoetherian_and_discreteTopology (Spec R)).mpr
    ⟨inferInstance, inferInstanceAs (DiscreteTopology (PrimeSpectrum R))⟩
```

File: Mathlib/AlgebraicGeometry/Artinian.lean (hunk 43 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Artinian.lean]: I am not aware of improvements to `fun _ => ⟨inferInstance, inferInstance⟩`. I think they are fine.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
